US05284973
(A) Preparation of N-tetrahydrofurfuryl phthalimide
19.8 g (134 mmol) of phthalic anhydride were dissolved in 500 ml of chloroform. To the resultant solution, 10 g (99 mmol) of tetrahydrofurfurylamine were added with stirring. The resultant mixture was subjected to a reflux overnight while the reactant water yielded was distilled off. The thus obtained reaction mixture was allowed to cool and then was poured into 300 ml of aqueous solution of saturated sodium hydrogencarbonate. Thereafter, an organic solvent layer was separated from the reaction mixture. The residual water layer was subjected to an extraction twice with chloroform and the extract thus obtained was combined with the organic solvent layer which was previously separated.

reactant | phthalic anhydride | 134 mmol, 19.8 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | tetrahydrofurfurylamine | 99 mmol, 10 g | C(C1CCCO1)N | C5H11NO
reactant | water | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | N-tetrahydrofurfuryl phthalimide | C(C1CCCO1)N1C(C=2C(C1=O)=CC=CC2)=O | C13H13NO3
